US05498733
1.0 g (3.9×10-3 mol) of 11-(methoxycarbonylamino) undecanoic acid, is dissolved in 20 mL ethanol and added to 2.0 g (5.0×10-2 mol) sodium hydroxide in 2 mL water. The mixture is refluxed for 17 hours, and the resulting gold-colored solution is cooled and neutralized with acetic acid to a pH of 7. The neutralized solution is filtered to remove any salt and the filtrate is stripped to yield crude amino acid. The crude acid is dissolved in 50 mL of water, cooled in ice and filtered to yield 0.41 g (53%). Recrystallizion from 16 mL ethanol/water (3:1) resulted in 0.26 g (34% yield) 11-aminoundecanoic acid (mp. 189°-192° C., Lit. mp. 190°-192° C).

reactant | 11-(methoxycarbonylamino) undecanoic acid | 3.9×10-3 mol, 1.0 g | COC(=O)NCCCCCCCCCCC(=O)O | C13H25NO4
reactant | sodium hydroxide | 5.0×10-2 mol, 2.0 g | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
solvent | water | 50 mL | O | H2O
catalyst | gold | [Au] | Au
product | 11-aminoundecanoic acid | 0.26 g, 34% yield | NCCCCCCCCCCC(=O)O | C11H23NO2
